US07423030B2
3.3. 7-Methoxy-4-(4-methoxyphenyl)-2H-phthalazin-1-one
18.5 mL (380 mmol) of hydrazine hydrate are added to a solution of 21.6 g (75 mmol) of 5-methoxy-2-(4-methoxybenzoyl)benzoic acid in 150 mL of ethanol and the mixture is refluxed for 2 hours. The reaction medium is cooled and then filtered. The precipitate obtained is washed with ethanol and then dried under reduced pressure at 40° C. 19 g of a white solid are obtained (90% yield).

reactant | hydrazine hydrate | 380 mmol, 18.5 mL | O.NN
reactant | 5-methoxy-2-(4-methoxybenzoyl)benzoic acid | 75 mmol, 21.6 g | COC=1C=CC(=C(C(=O)O)C1)C(C1=CC=C(C=C1)OC)=O | C16H14O5
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 7-Methoxy-4-(4-methoxyphenyl)-2H-phthalazin-1-one | 19 g, 90% yield | COC1=CC=C2C(=NNC(C2=C1)=O)C1=CC=C(C=C1)OC | C16H14N2O3
